US05140038
a) ethyl 4-(3-aminopropyl)-cyclohexyl-acetate
by hydrogenation of ethyl 4-(3-aminopropyl)-phenylacetate hydrochloride in the presence of rhodium in ethanol. Yield 90% of theory; m.p. 99°-103° C.

reactant | ethyl 4-(3-aminopropyl)-phenylacetate hydrochloride | Cl.NCCCC1=CC=C(C=C1)CC(=O)OCC
solvent | ethanol | C(C)O | C2H6O
catalyst | rhodium | [Rh] | Rh
product | ethyl 4-(3-aminopropyl)-cyclohexyl-acetate | Yield 90% | NCCCC1CCC(CC1)CC(=O)OCC | C13H25NO2
